US07399759B2
2-[4-(2-Aminoethyl)-2-pyridyl]-4H-1,3-benzothiazine-4-one hydrochloride salt
tert-Butyl 2-[2-(4-oxo-4H-1,3-benzothiazin-2-yl)-4-pyridyl]ethylcarbamate (0.40 g, 1.0 mmol) was dissolved in ethyl acetate (20 ml), and 4 N hydrochloric acid in ethyl acetate (2 ml) was added thereto dropwise at 0° C. The mixture was stirred at the same temperature for 1 hr. The precipitates were collected by filtration and recrystallized from diisopropyl ether-methanol to give the titled compound (0.04 g, 12%) as white crystals.

reactant | tert-Butyl 2-[2-(4-oxo-4H-1,3-benzothiazin-2-yl)-4-pyridyl]ethylcarbamate | 1.0 mmol, 0.40 g | O=C1N=C(SC2=C1C=CC=C2)C2=NC=CC(=C2)CCNC(OC(C)(C)C)=O | C20H21N3O3S
reactant | hydrochloric acid | 4 N | Cl | ClH
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
product | 2-[4-(2-Aminoethyl)-2-pyridyl]-4H-1,3-benzothiazine-4-one hydrochloride salt | 0.04 g, 12% | Cl.NCCC1=CC(=NC=C1)C=1SC2=C(C(N1)=O)C=CC=C2 | InChI=1S/C15H13N3OS.ClH/c16-7-5-10-6-8-17-12(9-10)15-18-14(19)11-3-1-2-4-13(11)20-15;/h1-4,6,8-9H,5,7,16H2;1H
